US04470988
A solution of 3-amino-1-carboxymethyl-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one sodium salt (13.2 g) and ethyl benzylpyruvate (30 g) in acetic acid (100 ml) and methanol (75 ml) is stirred at room temperature under an atmosphere of dry nitrogen for one hour. A solution of sodium cyanoborohydride (3.5 g) in methanol (30 ml) is then added dropwise during 4 hours. The reaction mixture is stirred at room temperature for 18 hours. Concentrated hydrochloric acid (10 ml) is added dropwise and the reaction mixture stirred at room temperature for 1 hour. The solvents are removed under reduced pressure and the residue partitioned between water (400 ml) and ether (100 ml). The pH is adjusted to 9 by the addition of 40% aqueous sodium hydroxide, and the ether layer is discarded. The pH of the aqueous phase is adjusted to 4.3 by the addition of concentrated hydrochloric acid, and the solution is extracted with ethyl acetate (3×100 ml). The ethyl acetate extracts are combined and dried over magnesium sulfate and the solvent removed under reduced pressure. The residue is dissolved in dichloromethane (150) (ml) and hydrogen chloride gas is bubbled in for five minutes. The solvent is evaporated and the residue is recrystallized to give 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one.

reactant | 3-amino-1-carboxymethyl-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one sodium salt | 13.2 g | [Na].NC1C(N(C2=C(CCCC1)C=CC=C2)CC(=O)O)=O
reactant | ethyl benzylpyruvate | 30 g | C(C1=CC=CC=C1)CC(C(=O)OCC)=O | C12H14O3
reactant | sodium cyanoborohydride | 3.5 g | C(#N)[BH3-].[Na+]
reactant | hydrochloric acid | 10 ml | Cl | ClH
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
solvent | methanol | 75 ml | CO | CH4O
solvent | methanol | 30 ml | CO | CH4O
product | 1-carboxymethyl-3-(1-ethoxycarbonyl-3-phenylpropylamino)-1,3,4,5,6,7-hexahydro-1-benzazonin-2-one | C(=O)(O)CN1C(C(CCCCC2=C1C=CC=C2)NC(CCC2=CC=CC=C2)C(=O)OCC)=O | C26H32N2O5
